US04472433
A mixture of 2-oxo-7-phenylsulfinylindoline (4.3 g.), sodium hydroxide (1.2 g.), water (10 ml.) and dioxane (10 ml.) was refluxed for 6 hours with stirring. The reaction mixture was evaporated under reduced pressure, and the residue was dissolved in water and washed with diethyl ether. The aqueous solution was adjusted to pH 4 with 5% sulfuric acid and extracted with diethyl ether. The extract was washed with a saturated aqueous solution of sodium chloride twice, dried over magnesium sulfate and evaporated under reduced pressure. The residue was washed with a mixture of ethanol and diisopropyl ether to give crystals of 2-(2-amino-3-phenylsulfinylphenyl)acetic acid (1.95 g.).

reactant | 2-oxo-7-phenylsulfinylindoline | 4.3 g | O=C1NC2=C(C=CC=C2C1)S(=O)C1=CC=CC=C1 | C14H11NO2S
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(2-amino-3-phenylsulfinylphenyl)acetic acid | 1.95 g | NC1=C(C=CC=C1S(=O)C1=CC=CC=C1)CC(=O)O | C14H13NO3S
